US04665070
A. Synthesis of 2-ethoxy-4H-3,1-benzoxazin-4-one, and Related Compounds of Formula IA
To a solution of anthranilic acid (0.1 mol., 13.71 gm) in dry pyridine (100 ml) at room temperature under anhydrous conditions was added ethyl chloroformate (4 equiv., 38.25 ml) in a dropwise manner over 15 minutes. After stirring for 2 hours, excess pyridine was removed under reduced pressure at 40° C. (bath temperature) and the residue was stirred vigorously in ice cold water (250 ml) for 15 minutes. The pale yellow powder was collected by filtration, washed with water (100 ml), and air-dried to give 18.6 gm of crude product. The crude product was treated with active charcoal (2 gm) in ethyl acetate (150 ml) to afford a white solid after removal of solvent. Recrystallization from EtOAc-ether gave 17.02 (89%) of the title compound, 2-ethoxy-4H-3,1-benzoxazin-4-one, as colorless crystals; m.p. 88°-90.5° C.; IR (KBr): νmax 1760 cm-1 (C=O), 1630 cm-1 (C=N); H'NMR (CDCl3); δ1.46 ppm (t, J=7.1 Hz, 3H,)CH2CH3), 4.53 ppm (q, J=7.1 Hz, 2H, OCH2CH3), 7.30-8.20 ppm (m, 4H, aromatic protons).

reactant | anthranilic acid | 0.1 mol, 13.71 gm | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | ethyl chloroformate | 38.25 ml, 4 equiv. | ClC(=O)OCC | C3H5ClO2
reactant | charcoal | 2 gm | C | CH4
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-ethoxy-4H-3,1-benzoxazin-4-one | C(C)OC1=NC2=C(C(O1)=O)C=CC=C2 | C10H9NO3
